US07119207B2
6-Methoxy-3-methyl-5-[(6-methyl-2-phenyl-piperidin-3-ylamino)-methyl]-1,1a,3,7b-tetrahydro-3-aza-cyclopropa[a]naphthalen-2-one
By a procedure similar to the previous examples 9 and 9A: prepared through the reaction of 6-Methyl-2-phenyl-piperidin-3-ylamine [or (2S,3S,6S,)-6-methyl-2-phenyl-piperidin-3-ylamine or (2R,3R,6R)-6-methyl-2-phenyl-piperidin-3-ylamine] with 6-Methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalene-5-carbaldehyde [or (1S,1aR)-6-Methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalene-5-carbaldehyde or (1R, 1aS)-6-Methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalene-5-carbaldehyde].

reactant | 6-Methyl-2-phenyl-piperidin-3-ylamine | CC1CCC(C(N1)C1=CC=CC=C1)N | C12H18N2
reactant | (2R,3R,6R)-6-methyl-2-phenyl-piperidin-3-ylamine | C[C@@H]1CC[C@H]([C@H](N1)C1=CC=CC=C1)N | C12H18N2
reactant | 6-Methoxy-3-methyl-2-oxo-1a,2,3,7b-tetrahydro-1H-3-aza-cyclopropa[a]naphthalene-5-carbaldehyde | COC1=C(C=C2N(C(C3C(C2=C1)C3)=O)C)C=O | C13H13NO3
product | 6-Methoxy-3-methyl-5-[(6-methyl-2-phenyl-piperidin-3-ylamino)-methyl]-1,1a,3,7b-tetrahydro-3-aza-cyclopropa[a]naphthalen-2-one | COC1=C(C=C2N(C(C3C(C2=C1)C3)=O)C)CNC3C(NC(CC3)C)C3=CC=CC=C3 | C25H31N3O2
